US09079922B2
1-cyclopropyl-6-fluoro-4-oxo-7-(3-{[(R)-2-oxo-3-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-oxazolidin-5-ylmethyl]-amino}-azetidin-1-yl)-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid
A mixture of 7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid (commercial; 141 mg), 6-[(5R)-5-[(3-azetidinylamino)methyl]-2-oxo-3-oxazolidinyl]-2H-1,4-benzothiazin-3(4H)-one (prepared according to WO 2008/126034; 167 mg) and TEA (0.15 ml) in MeCN (4 ml) was heated at 75° C. for 2 h. The reaction mixture was allowed to reach rt, diluted with water, filtered and the solid was washed with MeOH and EA, affording a beige solid.

reactant | 7-chloro-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid | 141 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | 6-[(5R)-5-[(3-azetidinylamino)methyl]-2-oxo-3-oxazolidinyl]-2H-1,4-benzothiazin-3(4H)-one | 167 mg | N1CC(C1)NC[C@@H]1CN(C(O1)=O)C=1C=CC2=C(NC(CS2)=O)C1 | C15H18N4O3S
solvent | MeCN | 4 ml | CC#N | C2H3N
solvent | water | O | H2O
product | 1-cyclopropyl-6-fluoro-4-oxo-7-(3-{[(R)-2-oxo-3-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-6-yl)-oxazolidin-5-ylmethyl]-amino}-azetidin-1-yl)-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1CC(C1)NC[C@@H]1CN(C(O1)=O)C=1C=CC2=C(NC(CS2)=O)C1)F)=O)C(=O)O | C27H25FN6O6S
